US07678818B2
A solution of 2.05 g of 3-[methyl-(2,2,2-trifluoro-acetyl)-amino]-thiophene-2-carboxylic acid methyl ester (7.67 mmol) in a mixture of methanol (100 ml) and 1N NaOH (15.4 ml) was stirred at RT over night. The methanol was then removed in vacuo and the remaining mixture was diluted with water and extracted with ethyl acetate. The combined organic layers were washed with brine, dried (Na2SO4), filtered and concentrated in vacuo to give 1.236 g (94%) of 3-methylamino-thiophene-2-carboxylic acid methyl ester as a light brown solid. MS (ISP) 172.2 (M+H)+.

reactant | 3-[methyl-(2,2,2-trifluoro-acetyl)-amino]-thiophene-2-carboxylic acid methyl ester | 7.67 mmol, 2.05 g | COC(=O)C=1SC=CC1N(C(C(F)(F)F)=O)C | C9H8F3NO3S
solvent | methanol | 100 ml | CO | CH4O
solvent | NaOH | 1N, 15.4 ml | [OH-].[Na+]
product | 3-methylamino-thiophene-2-carboxylic acid methyl ester | 1.236 g, 94% | COC(=O)C=1SC=CC1NC | C7H9NO2S
